US04566898
5-Chloro-2-methylbenzenesulfonamide
A solution of 3810.5 g of 5-chloro-2-methylbenzenesulfonyl chloride in 10.8 L of tetrahydrofuran was cooled to 0°-5° C. and 720 g of anhydrous ammonia was added while maintaining the temperature at 0°-5° C. When addition was complete, the suspension was stirred several hours at 0°-5° C., then allowed to warm to ambient temperature overnight. The precipitated ammonium chloride was filtered and washed with tetrahydrofuran. The filtrate was concentrated in vacuo until solids were formed. The solids were collected, washed with 1-chlorobutane and dried to give 2449 g of the title compound, m.p. 142°-145° C.

reactant | 5-chloro-2-methylbenzenesulfonyl chloride | 3810.5 g | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | ammonia | 720 g | N | H3N
solvent | tetrahydrofuran | 10.8 L | O1CCCC1 | C4H8O
product | 5-Chloro-2-methylbenzenesulfonamide | 2449 g | ClC=1C=CC(=C(C1)S(=O)(=O)N)C | C7H8ClNO2S
